US07238808B2
8-Pyridin-3-ylethynyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine
The title compound was prepared from 8-ethynyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine (example C.18) (130 mg, 0.37 mmol) and commercially available 3-bromo-pyridine (58 mg, 0.37 mmol) according to general procedure II. Obtained as a dark red solid (54 mg, 34%). MS (ISP) 433.0 [(M+H)+]; mp 199° C.

reactant | 8-ethynyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine | 0.37 mmol, 130 mg | C(#C)C=1N=CN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 3-bromo-pyridine | 0.37 mmol, 58 mg | BrC=1C=NC=CC1 | C5H4BrN
product | 8-Pyridin-3-ylethynyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine | N1=CC(=CC=C1)C#CC=1N=CN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C21H10F6N4
